US06716851B2
4-(3,5-Dimethoxyanilino)-2-(4-pyridinyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-chloro-2-(4-pyridinyl)-6-trifluoromethyl-pyrimidine (150 mg, 0.578 mmol) and 3,5-dimethoxyaniline (95 mg, 0.621 mmol) similar to Example 160 and was isolated as off-white solid (119 mg, 0.316 mmol, 55%). 1H NMR (DMSO-d6): 10.31 (s, br, 1H), 8.80 (m, 2H), 8.17 (m, 2H), 7.17 (s, 1H), 7.04 (s, 2H), 6.32 (m, 1H), 3.80 (s, 6H), 3.53 (s, 1H).

reactant | 4-chloro-2-(4-pyridinyl)-6-trifluoromethyl-pyrimidine | 0.578 mmol, 150 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 3,5-dimethoxyaniline | 0.621 mmol, 95 mg | COC=1C=C(N)C=C(C1)OC | C8H11NO2
product | 4-(3,5-Dimethoxyanilino)-2-(4-pyridinyl)-6-trifluoromethyl-pyrimidine | COC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C(C1)OC | C18H15F3N4O2
